### PR TITLE
adding logarithm truncate up

### PR DESCRIPTION
**Pull request by thery**
##### Motivation for this change

Following [this thread](https://coq.zulipchat.com/#narrow/stream/237977-Coq-users/topic/.E2.9C.94.20log2.20in.20coq), add the logarithm in base 2

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by thery** [comment]
I've tried to merge what I had and what @clayrat had.

**Comment by thery** [comment]
need help to improve theorem names ...

**Comment by proux01** [comment]
Is there a good reason for this to be specific to 2?

**Comment by clayrat** [comment]
It appears in complexity theory (required number of bits, various bounds for binary tree-like structures), is often included in standard libraries as a primitive (eg, in C and Matlab), and interacts nicely with 2-based special cases that Mathcomp already has (e.g. `.*2` or `./2`).

File: mathcomp/ssreflect/prime.v [hunk 1]
```diff
@@ -13,6 +13,7 @@ From mathcomp Require Import fintype div bigop.
 (* prime_decomp m == the list of prime factors of m > 1, sorted by primes.    *)
 (*       logn p m == the e such that (p ^ e) \in prime_decomp n, else 0.      *)
 (*  trunc_log p m == the largest e such that p ^ e <= m, or 0 if p or m is 0. *)
+(*        log2n_up_up m == the smallest e such that m <= 2 ^ e.                      *)
```
Comment (clayrat) [inline mathcomp/ssreflect/prime.v:16]: Looks like an extra `_up` & formatting is off

Comment (thery) [reply mathcomp/ssreflect/prime.v]: corrected

**Comment by thery** [comment]
@proux01 ok I've tried to generalize, not sure my assumption are minimal

File: mathcomp/ssreflect/prime.v [hunk 2]
```diff
@@ -825,6 +826,112 @@ move=> p_gt1 le_pj_k; rewrite -ltnS -(@ltn_exp2l p) //.
...
+
+Lemma up_log_eq0 p n : (up_log p n == 0) = (p <= 1) || (n <= 1).
+Proof.
+case: p => // [] [] // p.
+case: n => [|[|n]]; rewrite /up_log //=.
+have /= := trunc_log_bounds (isT : 1 < p.+2) (isT : 0 < n.+2).
+by case: (leqP _ n.+1); case: trunc_log.
+Qed.
+
+Lemma up_log_gt0 p n : (0 < up_log p n) = (1 < p) && (1 < n).
```
Comment (proux01) [inline mathcomp/ssreflect/prime.v:849]: Would we also want `0 < up_log p n -> 1 < p` and `0 < up_log p n` which might be more convenient to rewrite `1 < p` or ` 1 < n` to `true`?

File: mathcomp/ssreflect/prime.v [hunk 3]
```diff
@@ -825,6 +826,112 @@ move=> p_gt1 le_pj_k; rewrite -ltnS -(@ltn_exp2l p) //.
...
+Proof. by rewrite ltnNge leqn0 up_log_eq0 negb_or -!ltnNge. Qed.
+
+Lemma up_log_bounds p n :
+  1 < p -> 1 < n -> let k := up_log p n in p ^ k.-1 < n <= p ^ k.
```
Comment (proux01) [inline mathcomp/ssreflect/prime.v:853]: Has the alternative definition such that `p ^ k.-1 <= n < p ^ k` been considered? It may be more convenient, for instance to retrieve the "required number of bits" to encode a number (as noted by @clayrat ).

File: mathcomp/ssreflect/prime.v [hunk 4]
```diff
@@ -825,6 +826,112 @@ move=> p_gt1 le_pj_k; rewrite -ltnS -(@ltn_exp2l p) //.
...
+case: n => [|[|n]] // p_gt1; first by rewrite up_log1.
+by have /andP[] := up_log_bounds p_gt1 (isT: 1 < n.+2).
+Qed.
+
+Lemma up_log_gtn p n : 1 < p -> 1 < n -> p ^ (up_log p n).-1 < n.
+Proof.
+by case: n => [|[|n]] p_gt1 n_gt1 //; have /andP[] := up_log_bounds p_gt1 n_gt1.
+Qed.
+
+Lemma up_log_min p k j : 1 < p -> k <= p ^ j -> up_log p k <= j.
```
Comment (proux01) [inline mathcomp/ssreflect/prime.v:875]: The name may suggest the presence of a minimum, maybe `up_log_ub` or `up_log_le` but I'm not good at names.

File: mathcomp/ssreflect/prime.v (hunk 2 above)
Comment (thery) [reply mathcomp/ssreflect/prime.v:849]: my idea was to generalize in such a way that I would be the "proper" when instanciating with p=2 and with simplification

File: mathcomp/ssreflect/prime.v (hunk 3 above)
Comment (thery) [reply mathcomp/ssreflect/prime.v:853]: My main source is the AKS formalzation where they use the round up of the real log. I guess it is pretty standard but I am not an expert. Yours is simply `(trunc_log _).-1`

File: mathcomp/ssreflect/prime.v (hunk 4 above)
Comment (thery) [reply mathcomp/ssreflect/prime.v:875]: I just mimix the names that were given in the `trunc_log` but I agree I will have a hard remembering the name

File: mathcomp/ssreflect/prime.v (hunk 3 above)
Comment (proux01) [reply mathcomp/ssreflect/prime.v:853]: Indeed, we can then ignore my comment.

File: mathcomp/ssreflect/prime.v (hunk 4 above)
Comment (thery) [reply mathcomp/ssreflect/prime.v:875]: The `ub` suffix does not seem to be used in the library. I like `up_log_le` or maybe `up_log_leq`. We should alse rename `trunc_log_max` then. Another name I find weird is `trunc_logP`.

File: mathcomp/ssreflect/prime.v [hunk 5]
```diff
@@ -825,6 +826,112 @@ move=> p_gt1 le_pj_k; rewrite -ltnS -(@ltn_exp2l p) //.
...
+by apply/up_log_min => //; apply: leq_trans mLn (up_logP _ _).
+Qed.
+
+Lemma up_log_eq p n k : 1 < p -> p ^ n < k <= p ^ n.+1 -> up_log p k = n.+1.
+Proof.
+move=> p_gt1 /andP[npLk kLpn]; apply/eqP; rewrite eqn_leq.
+apply/andP; split; first by apply: up_log_min.
+rewrite -(ltn_exp2l _ _ p_gt1) //.
+by apply: leq_trans npLk (up_logP _ _).
+Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/prime.v:894]:
```suggestion
Lemma up_log_eq p n k : 1 < p -> p ^ n < k <= p ^ n.+1 -> up_log p k = n.+1.
Proof.
move=> p_gt1 /andP[npLk kLpn]; apply/anti_leq.
rewrite up_log_min //= -(ltn_exp2l _ _ p_gt1).
by apply: leq_trans npLk (up_logP _ _).
ed.
```

File: mathcomp/ssreflect/prime.v [hunk 6]
```diff
@@ -825,6 +826,112 @@ move=> p_gt1 le_pj_k; rewrite -ltnS -(@ltn_exp2l p) //.
...
+Lemma up_logMp p n : 1 < p -> 0 < n -> up_log p (p * n) = (up_log p n).+1.
+Proof.
+case: p => // p.
+case: n => // [] [|n] p_gt1 n_gt1; first by rewrite muln1 up_lognn // up_log1.
+apply: up_log_eq => //.
+have := up_log_bounds p_gt1 (isT : 1 < n.+2).
+have : 0 < up_log p.+1 n.+2 by rewrite up_log_gt0 p_gt1.
+case: up_log => //= k _ Hp.
+by rewrite expnS ltn_mul2l /= expnS leq_mul2l.
+Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/prime.v:914]:
```suggestion
Lemma up_logMp p n : 1 < p -> 0 < n -> up_log p (p * n) = (up_log p n).+1.
Proof.
case: p => [//|p] p_gt0.
case: n => [//|[|n]] _; first by rewrite muln1 up_lognn// up_log1.
apply: up_log_eq => //.
rewrite expnS leq_pmul2l// up_logP// andbT.
rewrite -[up_log _ _]prednK ?up_log_gt0 ?p_gt0 //.
by rewrite expnS ltn_pmul2l// up_log_gtn.
Qed.
```

File: mathcomp/ssreflect/prime.v (hunk 5 above)
Comment (proux01) [inline mathcomp/ssreflect/prime.v:894]:
```suggestion
Lemma up_log_eq p n k : 1 < p -> p ^ n < k <= p ^ n.+1 -> up_log p k = n.+1.
Proof.
move=> p_gt1 /andP[npLk kLpn]; apply/anti_leq.
rewrite up_log_min //= -(ltn_exp2l _ _ p_gt1).
by apply: leq_trans npLk (up_logP _ _).
ed.
```

**Review by proux01 — COMMENTED** [review]
Why not adding a lemma linking the new `up_log` to the existing `trunc_log` like
```Coq
Lemma up_log_trunc_log p n : 1 < p -> (up_log p n).-1 = trunc_log p n.-1.
Proof.
move=> p_gt1.
case: (leqP (up_log p n) 0).
  rewrite leqn0 up_log_eq0 leqNgt p_gt1 /=.
  case: n => [_|[_|//]] /=; first by rewrite up_log0.
  by rewrite up_log1.
rewrite up_log_gt0 => /andP[_ n_gt1].
apply: succn_inj; rewrite prednK ?up_log_gt0 ?p_gt1//.
apply: up_log_eq => //.
rewrite -[n]prednK ?ltnS -?pred_Sn ?[0 < n]ltnW//.
by rewrite trunc_logP ?ltn_predRL// trunc_log_ltn.
Qed.
```

we may also add lemmas on `trunc_log` similar to the new ones on `up_log`
```Coq
Lemma trunc_log0 p : trunc_log p 0 = 0.
Proof. by []. Qed.

Lemma trunc_log1 p : 1 < p -> trunc_log p 1 = 0.
Proof. by case: p => [|[]]. Qed.

Lemma trunc_log_eq0 p n : (trunc_log p n == 0) = (n <= p.-1).
Proof.
case: p => [|[|p]]; case: n => // n; rewrite /= ltnS.
have /= /andP[] := trunc_log_bounds (isT : 1 < p.+2) (isT : 0 < n.+1).
case: trunc_log => [//|k] b1 b2.
apply/idP/idP => [/eqP sk0 | nlep]; first by move: b2; rewrite sk0.
symmetry; rewrite -[_ == _]/false /is_true -b1; apply/negbTE; rewrite -ltnNge.
move: nlep; rewrite -ltnS => nlep; apply: (leq_ltn_trans nlep).
by rewrite -[X in X <= _]expn1; apply: leq_pexp2l.
Qed.

Lemma trunc_log_gt0 p n : (0 < trunc_log p n) = (p.-1 < n).
Proof. by rewrite ltnNge leqn0 trunc_log_eq0 -ltnNge. Qed.

Lemma trunc_log0n n : trunc_log 0 n = n.
Proof.
case: n => [//|n]; rewrite /trunc_log /= divn0.
by elim: n => [//|n IHn]; rewrite divn0 IHn.
Qed.

Lemma trunc_log1n n : trunc_log 1 n = n.
Proof.
case: n => [//|n]; rewrite /trunc_log /= divn1.
by elim: {-1}n => [//|n' IHn']; rewrite divn1 IHn'.
Qed.

Lemma up_log0n n : up_log 0 n = 0.
Proof. by []. Qed.

Lemma up_log1n n : up_log 1 n = 0.
Proof. by []. Qed.

Lemma leq_trunc_log p m n : m <= n -> trunc_log p m <= trunc_log p n.
Proof.
move=> mlen; case: p => [|[|p]]; rewrite ?trunc_logp0 ?trunc_logp1 //.
case: m mlen => [|m] mlen; first by rewrite trunc_log0.
apply/trunc_log_max => //; apply: leq_trans mlen; exact: trunc_logP.
Qed.

Lemma trunc_log_eq p n k : 1 < p -> p ^ n <= k < p ^ n.+1 -> trunc_log p k = n.
Proof.
move=> p_gt1 /andP[npLk kLpn]; apply/anti_leq.
rewrite trunc_log_max// andbT -ltnS -(ltn_exp2l _ _ p_gt1).
apply: leq_ltn_trans kLpn; apply: trunc_logP => //.
by apply: leq_trans npLk; rewrite expn_gt0 ltnW.
Qed.

Lemma trunc_lognn p : 0 < p -> trunc_log p p = 1.
Proof. by case: p => [|[|p]] // _; rewrite /trunc_log ltnSn divnn. Qed.

Lemma expnK' p n : 1 < p -> trunc_log p (p ^ n) = n.
Proof. by move=> ?; apply: trunc_log_eq; rewrite // leqnn ltn_exp2l /=. Qed.

Lemma trunc_logMp p n : 1 < p -> 0 < n ->
  trunc_log p (p * n) = (trunc_log p n).+1.
Proof.
case: p => [//|p] => p_gt0 n_gt0; apply: trunc_log_eq => //.
rewrite expnS leq_pmul2l// trunc_logP//=.
by rewrite expnS ltn_pmul2l// trunc_log_ltn.
Qed.

Lemma trunc_log2_double n : 0 < n -> trunc_log 2 n.*2 = (trunc_log 2 n).+1.
Proof. by move=> n_gt0; rewrite -mul2n trunc_logMp. Qed.

Lemma trunc_log2S n : 1 < n -> trunc_log 2 n = (trunc_log 2 n./2).+1.
Proof.
move=> n_gt1.
rewrite -trunc_log2_double ?half_gt0//.
rewrite -[n in LHS]odd_double_half.
case: odd => //; rewrite add1n.
apply: trunc_log_eq => //.
rewrite leqW ?trunc_logP //= ?double_gt0 ?half_gt0//.
rewrite trunc_log2_double ?half_gt0// expnS.
by rewrite -doubleS mul2n leq_double trunc_log_ltn.
Qed.
```

**Comment by thery** [comment]
> ```coq
> Lemma up_log_trunc_log p n : 1 < p -> (up_log p n).-1 = trunc_log p n.-1.
> Proof.
> move=> p_gt1.
> case: (leqP (up_log p n) 0).
>   rewrite leqn0 up_log_eq0 leqNgt p_gt1 /=.
>   case: n => [_|[_|//]] /=; first by rewrite up_log0.
>   by rewrite up_log1.
> rewrite up_log_gt0 => /andP[_ n_gt1].
> apply: succn_inj; rewrite prednK ?up_log_gt0 ?p_gt1//.
> apply: up_log_eq => //.
> rewrite -[n]prednK ?ltnS -?pred_Sn ?[0 < n]ltnW//.
> by rewrite trunc_logP ?ltn_predRL// trunc_log_ltn.
> Qed.
> ```
@proux01 Completly overlooked there was such a simple relation. I have added in a slighty different form. Look if it is ok

**Comment by proux01** [comment]
> I have added in a slighty different form. Look if it is ok

Nice, your form seems much more usable.

File: CHANGELOG_UNRELEASED.md [hunk 7]
```diff
@@ -10,6 +10,17 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
 
 ### Added
 
+- in `prime.v` 
+  + theorems `trunc_log0`, `trunc_log1`, `trunc_logP`, `trunc_log_eq0`,
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:14]:
```suggestion
  + theorems `trunc_log0`, `trunc_log1`, `trunc_log_eq0`,
```
`trunc_logP` was already there (it only moved by a few lines, no idea why)

File: mathcomp/ssreflect/prime.v [hunk 8]
```diff
@@ -13,6 +13,7 @@ From mathcomp Require Import fintype div bigop.
 (* prime_decomp m == the list of prime factors of m > 1, sorted by primes.    *)
 (*       logn p m == the e such that (p ^ e) \in prime_decomp n, else 0.      *)
 (*  trunc_log p m == the largest e such that p ^ e <= m, or 0 if p or m is 0. *)
```
Comment (proux01) [inline mathcomp/ssreflect/prime.v:15]: BTW, the last part seems incorrect (at least for p = 0, according to `trunc_log0n`), should we fix the doc? (it also doesn't tell anything about p = 1) or the definition?

File: mathcomp/ssreflect/prime.v [hunk 9]
```diff
@@ -810,21 +817,210 @@ have [le_p_n | // ] := leqP p _; rewrite 2!expnSr -leq_divRL -?ltn_divLR //.
...
+Proof.
+move=> p_gt1 n_gt1; apply: up_log_eq => //.
+rewrite -[n]prednK ?ltnS -?pred_Sn ?[0 < n]ltnW//.
+by rewrite trunc_logP ?ltn_predRL// trunc_log_ltn.
+Qed.
+
+Lemma trunc_log_up_log p n : 
+  1 < p -> 0 < n -> trunc_log p n = (up_log p n.+1).-1.
+Proof. by move=> p_gt1 n_gt0; rewrite up_log_trunc_log.
+Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/prime.v:1022]: bikeshedding
```suggestion
Proof. by move=> ? ?; rewrite up_log_trunc_log. Qed.
```

File: mathcomp/ssreflect/prime.v [hunk 10]
```diff
@@ -810,21 +817,210 @@ have [le_p_n | // ] := leqP p _; rewrite 2!expnSr -leq_divRL -?ltn_divLR //.
...
+case: p => [//|p] p_gt0.
+case: n => [//|[|n]] _; first by rewrite muln1 up_lognn// up_log1.
+apply: up_log_eq => //.
+rewrite expnS leq_pmul2l// up_logP// andbT.
+rewrite -[up_log _ _]prednK ?up_log_gt0 ?p_gt0 //.
+by rewrite expnS ltn_pmul2l// up_log_gtn.
+Qed.
+
+Lemma up_log2_double n : 0 < n -> up_log 2 n.*2 = (up_log 2 n).+1.
+Proof.  by move=> n_gt0; rewrite -mul2n up_logMp. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/prime.v:993]: bikeshedding too
```suggestion
Lemma up_log2_double n : 0 < n -> up_log 2 n.*2 = (up_log 2 n).+1.
Proof. by move=> n_gt0; rewrite -mul2n up_logMp. Qed.
```

File: mathcomp/ssreflect/prime.v (hunk 8 above)
Comment (thery) [reply mathcomp/ssreflect/prime.v:15]: I would prefer to change the def so that it is 0 when it does not make sense

**Review by proux01 — APPROVED** [review]
Tis looks good to me, I'd like to merge by the end of the week if CI is green and nobody complains.

**Comment by thery** [comment]
@proux01 @CohenCyril do you have any idea why `coqeal` is not compiling?

**Comment by proux01** [comment]
There seems to be a dependency issue (missing dependency to real_closed, added recently), maybe we should update the coq-nix-toolbox? (there is still a bit of dark magic there for me)

**Comment by proux01** [comment]
@thery CI should be fixed https://github.com/math-comp/math-comp/pull/826 (except for bigenough on Coq master https://github.com/math-comp/bigenough/pull/5 ), please rebase

**Comment by thery** [comment]
@proux01 Did it. Hope not to get 30 "failing" emails like before :roll_eyes:

**Comment by thery** [comment]
@proux01 Thanks. Seems pretty good only 6 failures but they seem unrelated

**Comment by proux01** [comment]
Indeed, all failures are due to bienough not being compatible with Coq master (c.f. https://github.com/math-comp/bigenough/pull/5 ) so I'll merge by the end of the week if there is no further comment.

BTW, you may want to remove `trunc_log0n` and `trunc_log1n` since it's now the definition.

**Comment by proux01** [comment]
@thery I was about to merge when I realised there seems to be a bunch of unrelated things in the diff of  `CHANGELOG_UNRELEASED.md`, a rebase issue?

**Comment by thery** [comment]
@proux01 my bad, I've used the github web-interface to fix the conflict and I've clearly messed up. Should be ok now.
